US08293781B2
5-bromo-3-phenylacetyl-1H-indole
To 5-bromoindole (160 g), 1-phenylacetyl-1H-1,2,3-benzotriazole (193.62 g) and methylene chloride (2120 ml) were added, the mixture was stirred under ice cooling while adding a solution of titanium(IV) chloride (179 ml) in a methylene chloride solution (450 ml) and the mixture was stirred at room temperature for 1.5 hours. To the reaction solution, methanol (220 ml) and water (1126 ml) were added, the mixture was stirred at room temperature for 21 hours and in an ice water bath for 3 hours, then the precipitated crystals were obtained by filtration to afford the above-identified compound (163.0 g).

reactant | 5-bromoindole | 160 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | methylene chloride | 2120 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
reactant | methanol | 220 ml | CO | CH4O
catalyst | titanium(IV) chloride | 179 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | 1126 ml | O | H2O
product | 5-bromo-3-phenylacetyl-1H-indole | 163.0 g | BrC=1C=C2C(=CNC2=CC1)C(CC1=CC=CC=C1)=O | C16H12BrNO
